* Backward Multiplier Optimization Validation Tests
* Verifies that removing EF+divider from bk_mult/bk_mult_ac output stage
* preserves gradient current magnitude, linearity, and weight update behavior.

.include neuron.spice

***********************************************************************
* POWER SUPPLIES
***********************************************************************
VCC vcc 0 DC 5
VEE vee 0 DC -5

***********************************************************************
* BIAS INFRASTRUCTURE (shared by all standalone test cells)
***********************************************************************
R_bias_top vcc bias_raw 4.7k
R_bias_bot bias_raw vee 15k
Q_bias_buf vcc bias_raw w_bias NPN_AN
R_bias_load w_bias vee 20k

R_tail_top vcc tail_ref_c 4.65k
Q_tail_ref tail_ref_c tail_ref_c vee NPN_AN

R_ref3_top vcc ref3_raw 2.6k
R_ref3_bot ref3_raw vee 13k
Q_ref3_buf vcc ref3_raw ref3 NPN_AN
R_ref3_load ref3 vee 10k

***********************************************************************
* STANDALONE bk_mult CELLS for gradient current tests
* All share V_sig as SIGNAL input (swept together)
***********************************************************************

V_sig sig_node 0 DC 0

* Cell A: GAIN=0.5
V_gain_a gain_a 0 DC 0.5
V_inj_a inj_a 0 DC 0
X_a gain_a sig_node inj_a vcc vee w_bias tail_ref_c ref3 bk_mult

* Cell B: GAIN=0.3
V_gain_b gain_b 0 DC 0.3
V_inj_b inj_b 0 DC 0
X_b gain_b sig_node inj_b vcc vee w_bias tail_ref_c ref3 bk_mult

* Cell C: GAIN=0.7
V_gain_c gain_c 0 DC 0.7
V_inj_c inj_c 0 DC 0
X_c gain_c sig_node inj_c vcc vee w_bias tail_ref_c ref3 bk_mult

***********************************************************************
* FULL NEURON INSTANCE for gradient and forward tests
***********************************************************************
Vw1_prog w1_prog 0 DC 0.7
Rw1_prog w1_prog w1_node 10MEG
Vw2_prog w2_prog 0 DC -0.4
Rw2_prog w2_prog w2_node 10MEG

X_neuron vin1 vin2 vout vcc vee w1_node w2_node err_in neuron
.ic V(w1_node)=0.7 V(w2_node)=-0.4

Vin1 vin1 0 DC 0
Vin2 vin2 0 DC 0
Verr err_in 0 DC 0

***********************************************************************
* STANDALONE bk_mult_ac CELL for weight update test
***********************************************************************
V_gain_ac gain_ac 0 DC 0.5
C_wt wt_node 0 100n
R_wt_bleed wt_node 0 100MEG
.ic V(wt_node)=0.5 V(x_ac.bk_ac)=0.5

X_ac gain_ac err_ac wt_node vcc vee w_bias tail_ref_c ref3 bk_mult_ac
Verr_ac err_ac 0 DC 0

***********************************************************************
* CONTROL BLOCK
***********************************************************************
.control

set noaskquit

echo ""
echo "============================================================"
echo "Backward Multiplier Optimization Validation"
echo "============================================================"

* =====================================================================
* Test 1: Standalone bk_mult gradient current at multiple weights
* All cells share V_sig, swept from -1.1 to 1.1.
* =====================================================================
echo ""
echo "============================================"
echo "Test 1: Standalone bk_mult gradient current"
echo "============================================"

* Use +/-0.5V to stay well within linear region (Re=1k, I_tail=2mA)
dc V_sig -0.6 0.6 0.1

meas DC ia_at0 FIND I(V_inj_a) AT=0
meas DC ia_pos FIND I(V_inj_a) AT=0.5
meas DC ia_neg FIND I(V_inj_a) AT=-0.5

meas DC ib_at0 FIND I(V_inj_b) AT=0
meas DC ib_pos FIND I(V_inj_b) AT=0.5
meas DC ib_neg FIND I(V_inj_b) AT=-0.5

meas DC ic_at0 FIND I(V_inj_c) AT=0
meas DC ic_pos FIND I(V_inj_c) AT=0.5
meas DC ic_neg FIND I(V_inj_c) AT=-0.5

* Gradient slope = (I(+0.5) - I(-0.5)) / 1.0
let slope_a = (ia_pos - ia_neg)
let slope_b = (ib_pos - ib_neg)
let slope_c = (ic_pos - ic_neg)

echo ""
echo "--- Gradient slopes dI/dSIGNAL ---"
echo "Cell A (GAIN=0.5):"
print slope_a
echo "Cell B (GAIN=0.3):"
print slope_b
echo "Cell C (GAIN=0.7):"
print slope_c

* Linearity: slope ratios should match weight ratios
let ratio_ca = slope_c / slope_a
let ratio_ba = slope_b / slope_a

echo ""
echo "--- Linearity: slope ratios vs weight ratios ---"
echo "slope_c/slope_a (expect 1.40 = 0.7/0.5):"
print ratio_ca
echo "slope_b/slope_a (expect 0.60 = 0.3/0.5):"
print ratio_ba

let err_ca = abs(ratio_ca - 1.4)
let err_ba = abs(ratio_ba - 0.6)

echo ""
echo "Absolute error in ratio_ca (threshold 0.20):"
print err_ca
echo "Absolute error in ratio_ba (threshold 0.10):"
print err_ba

if err_ca < 0.20
  echo "PASS: ratio_ca within tolerance"
else
  echo "FAIL: ratio_ca outside tolerance"
end
if err_ba < 0.10
  echo "PASS: ratio_ba within tolerance"
else
  echo "FAIL: ratio_ba outside tolerance"
end

* Symmetry: |grad_pos + grad_neg| / |grad_pos|
let grad_a_pos = ia_pos - ia_at0
let grad_a_neg = ia_neg - ia_at0
let sym_a = abs(grad_a_pos + grad_a_neg) / abs(grad_a_pos)

echo ""
echo "--- Symmetry (Cell A): |sum| / |pos| (expect < 0.15) ---"
print sym_a
if sym_a < 0.15
  echo "PASS: Cell A symmetry OK"
else
  echo "FAIL: Cell A symmetry > 15%"
end

* =====================================================================
* Test 2: Full neuron gradient currents
* =====================================================================
echo ""
echo "============================================"
echo "Test 2: Full neuron gradient currents"
echo "============================================"

dc Verr -1.1 1.1 0.1
meas DC ivin1_at0 FIND I(Vin1) AT=0
meas DC ivin1_at1 FIND I(Vin1) AT=1
meas DC ivin1_atn1 FIND I(Vin1) AT=-1
meas DC ivin2_at0 FIND I(Vin2) AT=0
meas DC ivin2_at1 FIND I(Vin2) AT=1
meas DC ivin2_atn1 FIND I(Vin2) AT=-1

let grad_slope1 = (ivin1_at1 - ivin1_atn1) / 2
let grad_slope2 = (ivin2_at1 - ivin2_atn1) / 2

echo ""
echo "--- Neuron gradient slopes ---"
echo "dI(Vin1)/dERR (W1=0.7, expect positive ~6e-7):"
print grad_slope1
echo "dI(Vin2)/dERR (W2=-0.4, expect negative ~-3.5e-7):"
print grad_slope2

* Sign checks
if grad_slope1 > 0
  echo "PASS: grad1 sign correct (positive W -> positive slope)"
else
  echo "FAIL: grad1 sign wrong"
end
if grad_slope2 < 0
  echo "PASS: grad2 sign correct (negative W -> negative slope)"
else
  echo "FAIL: grad2 sign wrong"
end

* Ratio: expect ~ -1.75
let ratio_neuron = grad_slope1 / grad_slope2
echo ""
echo "--- Gradient ratio (expect ~ -1.75) ---"
print ratio_neuron

let err_ratio = abs(ratio_neuron + 1.75)
if err_ratio < 0.30
  echo "PASS: neuron gradient ratio within tolerance"
else
  echo "FAIL: neuron gradient ratio outside tolerance"
end

* Magnitude checks
let abs_g1 = abs(grad_slope1)
let abs_g2 = abs(grad_slope2)
echo "--- Gradient magnitudes ---"
print abs_g1 abs_g2

if abs_g1 > 3e-7
  if abs_g1 < 1.2e-6
    echo "PASS: grad1 magnitude in range [3e-7, 1.2e-6]"
  else
    echo "FAIL: grad1 magnitude too large"
  end
else
  echo "FAIL: grad1 magnitude too small"
end

if abs_g2 > 1.5e-7
  if abs_g2 < 7e-7
    echo "PASS: grad2 magnitude in range [1.5e-7, 7e-7]"
  else
    echo "FAIL: grad2 magnitude too large"
  end
else
  echo "FAIL: grad2 magnitude too small"
end

* =====================================================================
* Test 3: Forward path integrity
* =====================================================================
echo ""
echo "============================================"
echo "Test 3: Forward path integrity"
echo "============================================"

alter Vin1 DC = 0
alter @Vin1[sin] = [ 0 0 0 0 0 0 ]
alter Vin2 DC = 0
alter @Vin2[sin] = [ 0 0 0 0 0 0 ]
alter Verr DC = 0
alter @Verr[pulse] = [ 0 0 0 0 0 0 0 ]

dc Vin1 -1.1 1.1 0.1
meas DC vout_at0 FIND V(vout) AT=0
meas DC vout_at1 FIND V(vout) AT=1
meas DC vout_atn1 FIND V(vout) AT=-1

let fwd_slope = (vout_at1 - vout_atn1) / 2
echo ""
echo "--- Forward slope dVout/dVin1 (expect ~0.617) ---"
print fwd_slope

let fwd_err = abs(fwd_slope - 0.617)
if fwd_err < 0.05
  echo "PASS: forward slope within tolerance"
else
  echo "FAIL: forward slope outside tolerance"
end

* =====================================================================
* Test 4: Forward/error isolation
* =====================================================================
echo ""
echo "============================================"
echo "Test 4: Forward/error isolation"
echo "============================================"

alter Vin1 DC = 0.5
alter @Vin1[sin] = [ 0.5 0 0 0 0 0 ]
alter Vin2 DC = 0.3
alter @Vin2[sin] = [ 0.3 0 0 0 0 0 ]

dc Verr -1.1 1.1 0.1
meas DC vout_err0 FIND V(vout) AT=0
meas DC vout_err1 FIND V(vout) AT=1
meas DC vout_errn1 FIND V(vout) AT=-1

let err_coupling = abs(vout_err1 - vout_errn1) / 2
echo ""
echo "--- Error-to-output coupling (expect < 1 mV) ---"
print err_coupling

if err_coupling < 1e-3
  echo "PASS: error/forward isolation < 1 mV"
else
  echo "FAIL: error/forward isolation >= 1 mV"
end

* =====================================================================
* Test 5: bk_mult_ac weight update (transient)
* =====================================================================
echo ""
echo "============================================"
echo "Test 5: bk_mult_ac weight update"
echo "============================================"

* Reset inputs for transient
alter Vin1 DC = 0.5
alter @Vin1[sin] = [ 0.5 0 0 0 0 0 ]
alter Vin2 DC = -0.3
alter @Vin2[sin] = [ -0.3 0 0 0 0 0 ]
alter Verr DC = 0
alter @Verr[pulse] = [ 0 0 0 0 0 0 0 ]

* Pulse the standalone AC cell's error input
alter Verr_ac DC = 0
alter @Verr_ac[pulse] = [ 0 0.5 10m 100u 100u 50m 200m ]

tran 100u 150m UIC

meas TRAN wt_pre FIND V(wt_node) AT=9m
meas TRAN wt_mid FIND V(wt_node) AT=40m
meas TRAN wt_end FIND V(wt_node) AT=61m

let dwt_pulse = wt_end - wt_pre

echo ""
echo "--- Standalone bk_mult_ac weight update ---"
echo "Weight before pulse:"
print wt_pre
echo "Weight mid-pulse:"
print wt_mid
echo "Weight at pulse end:"
print wt_end
echo "Weight change during pulse:"
print dwt_pulse

* Weight should change with positive sign (pos GAIN * pos ERR)
if dwt_pulse > 0
  echo "PASS: weight update direction correct (positive)"
else
  echo "FAIL: weight update direction wrong"
end

let abs_dwt = abs(dwt_pulse)
if abs_dwt > 1e-6
  echo "PASS: weight update magnitude detectable"
else
  echo "FAIL: weight update too small"
end

* =====================================================================
* Test 6: DC operating point sanity check
* =====================================================================
echo ""
echo "============================================"
echo "Test 6: DC operating point check"
echo "============================================"

alter @Verr_ac[pulse] = [ 0 0 0 0 0 0 0 ]

op

echo ""
echo "--- bk_mult DC operating points ---"
echo "Cell A outn_bk voltage:"
print V(x_a.outn_bk)
echo "REF3 voltage:"
print V(ref3)

let i_trans_a = (V(x_a.outn_bk) - V(ref3)) / 1100
echo "R_trans current (outn_bk to REF3):"
print i_trans_a

let i_dc_inject_a = (V(x_a.outn_bk) - V(inj_a)) / 960000
echo "DC current through R_inject:"
print i_dc_inject_a

echo ""
echo "Note: DC inject current is absorbed by the VIN voltage source."
echo "In bk_mult_ac, coupling cap blocks this DC entirely."
echo "The gradient signal rides on top of this baseline and is"
echo "correctly extracted by subtracting I(ERR=0)."

echo ""
echo "============================================"
echo "ALL TESTS COMPLETE"
echo "============================================"

.endc
.end
